US05952511
To a suspension of 5.0 g of isatin in 200 ml of ethanol was added a solution of 9.75 g of O-benzylhydroxylamine hydrochloride and 4.18 g of sodium acetate in 50 ml of water at room temperature. The mixture was stirred at room temperature for 3 hours and concentrated. The concentrate was diluted with ethyl acetate and then washed with water. The organic layer was dried over anhydrous sodium sulfate and concentrated. Recrystallization of the crude product from ethanol gave 6.06 g (71%) of 3-(benzyloxyimino)indolin-2-one as yellow crystals.

reactant | isatin | 5.0 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | O-benzylhydroxylamine hydrochloride | 9.75 g | Cl.C(C1=CC=CC=C1)ON
reactant | sodium acetate | 4.18 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 3-(benzyloxyimino)indolin-2-one | 6.06 g, 71% | C(C1=CC=CC=C1)ON=C1C(NC2=CC=CC=C12)=O | C15H12N2O2
